US09079911B2
To 3-fluoro-2-(1H-pyrazol-5-yl)benzonitrile in MeOH (3 mL) was added 2M aq. NaOH (1 mL). The reaction was heated at reflux for 15 h, then cooled to rt, acidified with 1N aq. HCl to pH=1 and extracted with EtOAc to give (210 mg, 99%) of 3-fluoro-2-(1H-pyrazol-5-yl)benzoic acid which was used crude.

reactant | 3-fluoro-2-(1H-pyrazol-5-yl)benzonitrile | FC=1C(=C(C#N)C=CC1)C1=CC=NN1 | C10H6FN3
reactant | NaOH | 2M, 1 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | MeOH | 3 mL | CO | CH4O
product | 3-fluoro-2-(1H-pyrazol-5-yl)benzoic acid | 210 mg, 99% | FC=1C(=C(C(=O)O)C=CC1)C1=CC=NN1 | C10H7FN2O2
